US08222416B2
A mixture of 2-[1-[4-(2-ethoxy-ethanesulfonyl)-phenyl]-2-(tetrahydro-pyran-4-yl)-vinyl]-5-fluoro-1H-pyrrolo[2,3-b]pyridine (250 mg, 0.54 mmol) and 10% palladium on activated carbon (74 mg) in methanol (250 mL) was heated at 50° C. under hydrogen (50 psi) for 5 h. The mixture was cooled to 25° C., the solids filtered off, washed with ethyl acetate and concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 50% dichloromethane/ethyl acetate) afforded 2-[1-[4-(2-ethoxy-ethanesulfonyl)-phenyl]-2-(tetrahydro-pyran-4-yl)-ethyl]-5-fluoro-1H-pyrrolo[2,3-b]pyridine (145 mg, 57%): LC/MS m/e calcd for C24H29FN2O4S [M+H]+ 461.57, observed 461.1.

reactant | 2-[1-[4-(2-ethoxy-ethanesulfonyl)-phenyl]-2-(tetrahydro-pyran-4-yl)-vinyl]-5-fluoro-1H-pyrrolo[2,3-b]pyridine | 0.54 mmol, 250 mg | C(C)OCCS(=O)(=O)C1=CC=C(C=C1)C(=CC1CCOCC1)C1=CC=2C(=NC=C(C2)F)N1 | C24H27FN2O4S
catalyst | palladium on activated carbon | 74 mg | [Pd] | Pd
solvent | methanol | 250 mL | CO | CH4O
product | 2-[1-[4-(2-ethoxy-ethanesulfonyl)-phenyl]-2-(tetrahydro-pyran-4-yl)-ethyl]-5-fluoro-1H-pyrrolo[2,3-b]pyridine | 145 mg, 57% | C(C)OCCS(=O)(=O)C1=CC=C(C=C1)C(CC1CCOCC1)C1=CC=2C(=NC=C(C2)F)N1 | C24H29FN2O4S
